US05185349
Preparation of N-[2,6-bis(1-methylethyl)phenyl]-1-dodecyl-2-oxo-3-pyrrolidine carboxamide
The title compound was prepared from 1-dodecyl-2-pyrrolidinone (5.0 g, 0.019 mol), 2,6-diisopropylphenyl isocyanate (4.01 g, 0.019 mol) and lithium diisopropylamide (0.019 mol) using the procedure described in Example 1.

reactant | 1-dodecyl-2-pyrrolidinone | 0.019 mol, 5.0 g | C(CCCCCCCCCCC)N1C(CCC1)=O | C16H31NO
reactant | 2,6-diisopropylphenyl isocyanate | 0.019 mol, 4.01 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
reactant | lithium diisopropylamide | 0.019 mol | C(C)(C)[N-]C(C)C.[Li+]
product | N-[2,6-bis(1-methylethyl)phenyl]-1-dodecyl-2-oxo-3-pyrrolidine carboxamide | CC(C)C1=C(C(=CC=C1)C(C)C)NC(=O)C1C(N(CC1)CCCCCCCCCCCC)=O | C29H48N2O2
